US07598232B2
(E)-2,4,6-trimethoxystyryl-3-(trifluoroacetamido)-4-methoxybenzylsulfone
A solution of trifluoroacetic anhydride (20 mmol) and (E)-2,4,6-trimethoxystyryl-3-amino-4-methoxy benzylsulfone (10 mmol) in dry dichloromethane (25 mL) was stirred for 2 hours at room temperature and excess of trifluoroacetic anhydride was removed under vacuum and the product obtained was purified by washing with diethyl ether, yield 98%, m.p. 179-180° C.

reactant | trifluoroacetic anhydride | 20 mmol | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (E)-2,4,6-trimethoxystyryl-3-amino-4-methoxy benzylsulfone | 10 mmol | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)N)S(=O)(=O)C(C2=CC(=C(C=C2)OC)N)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C38H44N2O10S
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (E)-2,4,6-trimethoxystyryl-3-(trifluoroacetamido)-4-methoxybenzylsulfone | yield 98% | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)NC(C(F)(F)F)=O)S(=O)(=O)C(C2=CC(=C(C=C2)OC)NC(C(F)(F)F)=O)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C42H42F6N2O12S
